US07700591B2
tert-Butyl 4-(3-{[(4-methylphenyl)sulfonyl]oxy}isoxazol-5-yl)piperidine-1-carboxylate (719 mg, 1.76 mmol) was dissolved in anhydrous 4N HCl in dioxane (15 mL) and the resulting solution was stirred at rt for 1 h. The reaction mixture was concentrated to afford 5-piperidin-4-ylisoxazol-3-yl 4-methylbenzenesulfonate hydrochloride, which did not require further purification.

reactant | tert-Butyl 4-(3-{[(4-methylphenyl)sulfonyl]oxy}isoxazol-5-yl)piperidine-1-carboxylate | 1.76 mmol, 719 mg | CC1=CC=C(C=C1)S(=O)(=O)OC1=NOC(=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C20H26N2O6S
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 5-piperidin-4-ylisoxazol-3-yl 4-methylbenzenesulfonate hydrochloride | Cl.CC1=CC=C(C=C1)S(=O)(=O)OC1=NOC(=C1)C1CCNCC1 | InChI=1S/C15H18N2O4S.ClH/c1-11-2-4-13(5-3-11)22(18,19)21-15-10-14(20-17-15)12-6-8-16-9-7-12;/h2-5,10,12,16H,6-9H2,1H3;1H
